US07960584B2
Step 4: N-{4-[3-(4-t-Butyl-benzyl)ureidomethyl]-2,5-difluoro-4-methanesulfonylphenyl}methanesulfonamide
2,5-difluoro-4-methanesulfonylbenzylamine hydrochloride (70 mg, 0.26 mmol) and 4-t-butylbenzylcarbamic acid phenyl ester (1.1 eq, 80 mg) were put into the 25 ml one-neck round bottom flask and poured with 15 ml acetonitrile. To this solution was added triethylamine (excess, 0.5 ml) and stirred for 18 hours. After confirming the completion of the reaction with TLC, the reaction solution was concentrated under reduced pressure. The obtained substance was extracted with methylene chloride and washed with 1M HCl solution, dried over MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was column-chromatographed (n-hexane/ethyl acetate=2/3) to yield title compound (64 mg)

reactant | 2,5-difluoro-4-methanesulfonylbenzylamine hydrochloride | 0.26 mmol, 70 mg | Cl.FC1=C(CN)C=C(C(=C1)S(=O)(=O)C)F
reactant | 4-t-butylbenzylcarbamic acid phenyl ester | 80 mg, 1.1 eq | C1(=CC=CC=C1)OC(NCC1=CC=C(C=C1)C(C)(C)C)=O | C18H21NO2
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | N-{4-[3-(4-t-Butyl-benzyl)ureidomethyl]-2,5-difluoro-4-methanesulfonylphenyl}methanesulfonamide | 64 mg | C(C)(C)(C)C1=CC=C(CNC(NCC2(CC(=C(C=C2F)NS(=O)(=O)C)F)S(=O)(=O)C)=O)C=C1 | C21H29F2N3O5S2
